US06919365B2
Ethyl 2-(3-naphthylcarbonyl-2,4-dioxo-5,5-diphenylimidazolidinyl)acetate (Compound 3)
3-Naphthylcarbonyl-5,5-diphenylimidazolidine-2,4-dione (406 mg) was dissolved in dimethylformamide (DMF: 2 mL), ethyl bromoacetate (167 mg) was added, and potassium carbonate (138 mg) was further added. The reaction solution was stirred at room temperature overnight. After water was added carefully, ethyl acetate (100 mL) was added, followed by extraction. The resulting organic layer was washed with a saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was distilled off. Recrystallization from methanol afforded 338 mg of white crystals.

reactant | 3-Naphthylcarbonyl-5,5-diphenylimidazolidine-2,4-dione | 406 mg | C1(=CC=CC2=CC=CC=C12)C(=O)N1C(NC(C1=O)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C26H18N2O3
reactant | ethyl bromoacetate | 167 mg | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 138 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | Ethyl 2-(3-naphthylcarbonyl-2,4-dioxo-5,5-diphenylimidazolidinyl)acetate | 338 mg | C1(=CC=CC2=CC=CC=C12)C(=O)N1C(N(C(C1=O)(C1=CC=CC=C1)C1=CC=CC=C1)CC(=O)OCC)=O | C30H24N2O5
